US04126628
N6 -Capryloyl-L-lysine (ε-N-octanoyl-L-lysine)
To a solution of L-lysine monohydrochloride (1.66 g, 9.1 mmol) in 16 of water, 16 ml of acetone and 3.83 ml (27.3 mmol) of triethylamine, succinimidyl caprylate (2.21 g, 9.1 mmol) was added portion-wise under stirring at room temperature within the period of 1h. Stirring was continued for 3h. The organic solvent was removed in vacuo and the reaction mixture was neutralized using diluted hydrochloric acid and allowed to stand at 0° overnight. The white precipitate was collected by filtration, washed with cold water, dried yielding 2.41 g (97%) of the crude product. Infrared spectrum exhibited typical pattern of ε-N-mono-substituted lysine derivative: 1580-1590 cm-1 (ionized carboxyl group), 1635 and 1520-1535 (amide bands). The compound was further purified by washing with ethanol and crystallizing from glacial acetic acid giving 2.08 g (84%) of the pure title compound.

reactant | L-lysine monohydrochloride | 9.1 mmol, 1.66 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | water | O | H2O
reactant | triethylamine | 27.3 mmol, 3.83 ml | C(C)N(CC)CC | C6H15N
reactant | succinimidyl caprylate | 9.1 mmol, 2.21 g | C(CCCCCCC)(=O)ON1C(CCC1=O)=O | C12H19NO4
solvent | acetone | 16 ml | CC(=O)C | C3H6O
product | N6 -Capryloyl-L-lysine | 2.41 g, 97% | C(CCCCCCC)(=O)NCCCC[C@H](N)C(=O)O | C14H28N2O3
